US06982279B2
Benzyl {2-[2-(3-methylbutylcarbamoyl)thiophen-3-yl]-benzyl}carbamate
27 mg (0.09 mmol) of 3-(2-aminomethylphenyl)thiophene-2-carboxylic acid (3-methylbutyl)amide were dissolved in 3 ml of dry dichloromethane, and the solution was treated with 10 mg (0.1 mmol) of triethylamine and 24 mg (0.1 mmol) of benzyloxycarbonyloxysuccinimide. After a reaction time of 18 h, the mixture was diluted with 20 ml of dichloromethane, washed with saturated NaHCO3 solution and the organic phase was dried and concentrated. After purification by RP-HPLC, 27 mg (70%) of a colorless substance were obtained. MS (ES+): m/z=437 (M+1). 1H-NMR (CDCl3): δ=7.54-7.24 (10H, m), 6.90 (1H, d, J=4.8 Hz), 5.52 (1H, br s), 5.05 (3H, br s), 4.17 (2H, d, J=6.2 Hz), 3.16 (2H, m), 1.14 (1H, m), 1.07 (2H, q, J=7.0 Hz), 0.73 (6H, d, J=6.2 Hz).

reactant | 3-(2-aminomethylphenyl)thiophene-2-carboxylic acid (3-methylbutyl)amide | 0.09 mmol, 27 mg | CC(CCNC(=O)C=1SC=CC1C1=C(C=CC=C1)CN)C | C17H22N2OS
reactant | triethylamine | 0.1 mmol, 10 mg | C(C)N(CC)CC | C6H15N
reactant | benzyloxycarbonyloxysuccinimide | 0.1 mmol, 24 mg | C(C1=CC=CC=C1)OC(=O)OC1C(=O)NC(C1)=O | C12H11NO5
solvent | dichloromethane | 3 ml | ClCCl | CH2Cl2
solvent | dichloromethane | 20 ml | ClCCl | CH2Cl2
product | Benzyl {2-[2-(3-methylbutylcarbamoyl)thiophen-3-yl]-benzyl}carbamate | CC(CCNC(=O)C=1SC=CC1C1=C(CNC(OCC2=CC=CC=C2)=O)C=CC=C1)C | C25H28N2O3S
